US09328067B2
methyl 3-({2-[(1-benzofuran-2-ylsulfonyl)amino]-4-chlorophenyl}sulfinyl)propanoate
To a solution of methyl 3-({2-[(1-benzofuran-2-ylsulfonyl)amino]-4-chlorophenyl}sulfanyl)propanoate (181 mg, 0.43 mmol) in CH2Cl2 (4 ml) was added mCPBA (153 mg, ˜0.64 mmol). The reaction was stirred at room temperature for 1 hour, diluted with EtOAc, extracted with saturated aqueous NaHCO3 and brine, dried over Na2SO4, and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (25-100% EtOAc in hexane, then 10% MeOH in CH2Cl2) to yield the title compound (87 mg, 46%).

reactant | methyl 3-({2-[(1-benzofuran-2-ylsulfonyl)amino]-4-chlorophenyl}sulfanyl)propanoate | 0.43 mmol, 181 mg | O1C(=CC2=C1C=CC=C2)S(=O)(=O)NC2=C(C=CC(=C2)Cl)SCCC(=O)OC | C18H16ClNO5S2
reactant | mCPBA | ˜0.64 mmol, 153 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | CH2Cl2 | 4 ml | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | methyl 3-({2-[(1-benzofuran-2-ylsulfonyl)amino]-4-chlorophenyl}sulfinyl)propanoate | 87 mg, 46% | O1C(=CC2=C1C=CC=C2)S(=O)(=O)NC2=C(C=CC(=C2)Cl)S(=O)CCC(=O)OC | C18H16ClNO6S2
